* E:\USBCLE_15_11_2018\IUT\ER LT SPICE\TP 1- Traceur de courbes\FINAL\EL FINAL.asc
R1 N008 N012 10k
R2 VCC N013 33k
R3 N013 0 10k
R4 N012 S 33k
XU1 N012 N013 VCC VSS S TL082 TL082
C1 N002 N006 0.1n
C2 N007 0 100n
D1 N006 N007 1N4148
D2 0 N006 1N4148
XU2 N007 N010 VCC VSS N008 TL082 TL082
R5 0 N010 100k
R6 N011 S 10k
D3 0 N011 1N4148
Q1 N007 N011 0 0 2N2222
R7 N008 N010 3.5meg
XU3 V+ V- VCC VSS N002 TL082 TL082
R8 0 V+ 150k
R9 V+ N002 720k
R10 V- N002 86k
C3 V- 0 68n
XU4 V- N003 VCC VSS VoixX TL082 TL082
R11 VoixX N003 10k
R12 0 N003 14k
R13 N003 VSS 33k
R14 Va Vc 10
XU5 VoixX Vc VCC VSS N001 TL082 TL082
Q2 VCC N001 Va 0 2N2222
R15 N008 N009 10k
R16 VCC N009 270k
Q3 Vc N009 0 0 NPN
Rc1 Va Vc 10
R17 Va N004 100k
R18 Vc N005 100k
XU6 N004 N005 VCC VSS VoixY TL082 TL082
R19 0 N004 1meg
R20 N005 VoixY 1meg
V1 VCC 0 15
V2 0 VSS 15
.model D D
.lib E:\USBCLE_15_11_2018\IUT\ER1\SwCADIII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib E:\USBCLE_15_11_2018\IUT\ER1\SwCADIII\lib\cmp\standard.bjt
.tran 0 3 1 startup
.lib LISTE.LIB
.backanno
.end
